** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/testbenches/xschem/tb_chargepump_tran.sch
**.subckt tb_chargepump_tran
VDD VDD GND 3.3
I1 net1 GND 50u
x1 VDD out1 net1 GND net6 net7 osc
XM8 vsw nout1 net2 net2 sg13_hv_nmos w=5u l=0.45u ng=1 m=1 mm_ok=1
XM6 vsw nout1 net3 net3 sg13_hv_pmos w=5u l=0.4u ng=1 m=1 mm_ok=1
XC2 vboost vsw cap_cmomi w=10e-6 l=10e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
vout1 VDD net3 0
.save i(vout1)
vout2 VDD net5 0
.save i(vout2)
vout3 net2 GND 0
.save i(vout3)
XM2 nout1 out1 GND GND sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM3 nout1 out1 net4 net4 sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
vout4 VDD net4 0
.save i(vout4)
XM1 vboost vboost net5 vboost sg13_hv_pmos w=5u l=0.4u ng=1 m=1 mm_ok=1
XC1 VHDD GND cap_cmomi w=10e-6 l=10e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XM4 VHDD VHDD vboost VHDD sg13_hv_pmos w=5u l=0.4u ng=1 m=1 mm_ok=1
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt
.lib cornerCAP.lib cap_typ

.include /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/IHP-Open-PDK/ihp-sg13cmos5l/libs.ref/sg13cmos5l_stdcell/spice/sg13cmos5l_stdcell.spice



.param temp=27
.options savecurrents klu method=gear reltol=1e-3 abstol=1e-15 gmin=1e-15
.probe alli
.control

save all
set appendwrite

tran 1n 0.5u
remzerovec

save all
set appendwrite

write tb_chargepump_tran.raw
set appendwrite

* Plotting
plot vsw vboost VHDD
plot i(vout2)

*quit
.endc


**** end user architecture code
**.ends

* expanding   symbol:  osc.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/osc.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/osc.sch
.subckt osc VDD out1 ictrl VSS start out2
*.iopin VSS
*.iopin VDD
*.iopin out2
*.iopin out1
*.iopin start
*.iopin ictrl
XM3 out1 ictrl VDD VDD sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XM2 net1 ictrl VDD VDD sg13_hv_pmos w=1u l=2.0u ng=1 m=1 mm_ok=1
XM4 start ictrl VDD VDD sg13_hv_pmos w=1.0u l=2.0u ng=1 m=1 mm_ok=1
XM5 out2 ictrl VDD VDD sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XM6 ictrl ictrl VDD VDD sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XC1 net1 out1 cap_cmomi w=10e-6 l=10e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XC2 out2 start cap_cmomi w=10e-6 l=10e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XM8 out1 start VSS VSS sg13_hv_nmos w=3u l=0.45u ng=1 m=1 mm_ok=1
XM1 start start VSS VSS sg13_hv_nmos w=1u l=2u ng=1 m=1 mm_ok=1
XM12 out2 net1 VSS VSS sg13_hv_nmos w=3u l=0.45u ng=1 m=1 mm_ok=1
XM11 net1 net1 VSS VSS sg13_hv_nmos w=1u l=2u ng=1 m=1 mm_ok=1
**** begin user architecture code


.ic v(out1)=0 v(out2)=3.3


**** end user architecture code
.ends

.GLOBAL GND
.end
